US06462075B1
2,6-Dichloro-2′,6′-dimethoxychalcone.
(40) To a solution of 2,6-dichlorobenzaldehyde (485 mg, 2.77 mmol) and 2,6-dimethoxyacetophenone (500 mg, 2.77 mmol) in 4.1 ml of methanol was added 1.0 ml of 40% sodium hydroxide in water at 10° C. After stirring for 1.5 hours at room temperature, a solid appeared and was filtered. The precipitate was recrystallized from methanol to afford 481 mg (51.5%) of faint-yellow needles: mp 126.8-127.8° C. 1H NMR (250 MHz) δ 7.48-7.42 (d, 1H), 7.37-7.31 (m, 3H), 7.11-6.63-6.60 (d, 2H), 3.81 (s, 6H); 13C NMR (62.7 MHz) 195.1, 158.0, 138.4, 136.5, 135.2, 132.6, 131.4, 130.0, 129.0, 117.9, 104.2, 56.1 ppm. Elemental Analysis. Calculated for C17H14Cl2O3: C, 60.55; H, 4.19. Found: C, 60.60; H, 4.18.

reactant | 2,6-dichlorobenzaldehyde | 2.77 mmol, 485 mg | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | 2,6-dimethoxyacetophenone | 2.77 mmol, 500 mg | CC(=O)C1=C(C=CC=C1OC)OC | C10H12O3
reactant | sodium hydroxide | 1.0 ml | [OH-].[Na+]
solvent | methanol | 4.1 ml | CO | CH4O
solvent | water | O | H2O
product | 2,6-Dichloro-2′,6′-dimethoxychalcone | 481 mg, 51.5% | ClC1=C(C(=CC=C1)Cl)C=CC(=O)C1=C(C=CC=C1OC)OC | C17H14Cl2O3
